US07037925B2
c) 4-[3-(Hydroxymethyl)-2-methylanilino]-6,7-dimethoxy-3-quinolinecarboxamide.
A mixture of 4-chloro-6,7-dimethoxy-3-quinolinecarboxamide (0.15 g, 0.56 mmol), 3-amino-2-methylbenzylalcohol (0.1 g, 0.73 mmol), acetic acid (0.2 ml) in EtOH (10 ml) was refluxed for 4 h. After cooling the pH was adjusted to 9 with aqueous NH3. The resulting precipitate was filtered off and washed with cold EtOH and dried in vaccum at 40° C. to give 0.1 g (49% yield) of the title compound.

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarboxamide | 0.56 mmol, 0.15 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C(=O)N | C12H11ClN2O3
reactant | 3-amino-2-methylbenzylalcohol | 0.73 mmol, 0.1 g | NC=1C(=C(CO)C=CC1)C | C8H11NO
reactant | acetic acid | 0.2 ml | C(C)(=O)O | C2H4O2
reactant | NH3 | N | H3N
solvent | EtOH | 10 ml | CCO | C2H6O
product | 4-[3-(Hydroxymethyl)-2-methylanilino]-6,7-dimethoxy-3-quinolinecarboxamide | 0.1 g, 49% yield | OCC=1C(=C(NC2=C(C=NC3=CC(=C(C=C23)OC)OC)C(=O)N)C=CC1)C | C20H21N3O4
